US09238639B2
D) Methyl(4-(((trifluoromethyl)sulfonyl)oxy)-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate
To a mixture of methyl(4-hydroxy-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate (6.7 g) and THF (dry) (50 mL) were added 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide (6.07 g), TEA (4.73 mL) and DMAP (0.207 g) at 0° C., and the mixture was stirred at room temperature for 12 h. The mixture was poured into brine at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (8.27 g).

reactant | methyl(4-hydroxy-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate | 6.7 g | COC(CC1=CSC2=C1C(=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C)O)=O | C20H30O4SSi
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide | 6.07 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
catalyst | DMAP | 0.207 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | brine | [Cl-].[Na+].O
product | Methyl(4-(((trifluoromethyl)sulfonyl)oxy)-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate | 8.27 g | COC(CC1=CSC2=C1C(=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C)OS(=O)(=O)C(F)(F)F)=O | C21H29F3O6S2Si
